US09126993B2
To a stirred solution of ethyl 2-(4-(4-fluorophenyl)thiazol-2-yl)-2-methylpropanoate (0.900 g, 3.07 mmol) in 1:1:1 THF/ethanol/water (15 mL) was added lithium hydroxide monohydrate (0.451 g, 10.7 mmol). After overnight stirring, the reaction was concentrated and redissolved in water (80 mL). The solution was washed with ether (1×50 mL), acidified with the addition of 1 N HCl (15 mL) and extracted with ethyl acetate (2×50 mL). The combined extracts were dried (Na2SO4) and concentrated to afford 2-(4(4-fluorophenyl)thiazol-2-yl)-2-methylpropanoic acid as a pale golden solid (0.808 g, 99%).

reactant | ethyl 2-(4-(4-fluorophenyl)thiazol-2-yl)-2-methylpropanoate | 3.07 mmol, 0.900 g | FC1=CC=C(C=C1)C=1N=C(SC1)C(C(=O)OCC)(C)C | C15H16FNO2S
reactant | lithium hydroxide monohydrate | 10.7 mmol, 0.451 g | O.[OH-].[Li+]
solvent | THF ethanol water | 15 mL | C1CCOC1.C(C)O.O
product | 2-(4(4-fluorophenyl)thiazol-2-yl)-2-methylpropanoic acid | 0.808 g, 99% | FC1=CC=C(C=C1)C=1N=C(SC1)C(C(=O)O)(C)C | C13H12FNO2S
